US05955607
By heating 10 mmol of 6-fluoro-2,2-dimethyl-4-chromanone with 12 mmol of hydroxylamine hydrochloride in 5 ml of methanol and 5 ml of pyridine for 2 hours to 80° C., after distilling off the solvent and precipitating with water, 6-fluoro-2,2-dimethyl-4-chromanone oxime is obtained; m.p. 108-110° C.

reactant | 6-fluoro-2,2-dimethyl-4-chromanone | 10 mmol | FC=1C=C2C(CC(OC2=CC1)(C)C)=O | C11H11FO2
reactant | hydroxylamine hydrochloride | 12 mmol | Cl.NO
solvent | methanol | 5 ml | CO | CH4O
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 6-fluoro-2,2-dimethyl-4-chromanone oxime | FC=1C=C2C(CC(OC2=CC1)(C)C)=NO | C11H12FNO2
